US07704992B2
Powdered KOH (983 mg, 17.5 mmol) was added in batches over 1 minute to a heterogeneous mixture of 2,7-dibromo-9H-fluorene (1.31 g, 4.04 mmol) and 1,3-dibromopropane (837 mg, 4.15 mmol) in DMSO (20 mL), and stirred at ambient condition for ˜5 days. The mixture was diluted with water (200 mL) and extracted with 10% CH2Cl2/hexanes (100 mL, 2×). The combined organic phase was dried (MgSO4), filtered, and concentrated in vacuo. The resulting crude material was purified with a column chromatography (sample was loaded as a silica gel mesh; hexanes, with gravity elution) to afford 2′,7′-dibromospiro[cyclobutane-1,9′-fluorene] as a white fluffy solid (600 mg). 1H NMR (CDCl3, δ=7.24, 400 MHz): 7.86 (d, J=1.8, 2H), 7.48 (d, J=8.0, 2H), 7.44 (dd, J=8.1, 1.8, 2H), 2.61 (app t, J=8.1, 4H), 2.42-2.34 (m, 2H).

reactant | KOH | 17.5 mmol, 983 mg | [OH-].[K+]
reactant | 2,7-dibromo-9H-fluorene | 4.04 mmol, 1.31 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | 1,3-dibromopropane | 4.15 mmol, 837 mg | BrCCCBr | C3H6Br2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
product | 2′,7′-dibromospiro[cyclobutane-1,9′-fluorene] | BrC1=CC=2C3(C4=CC(=CC=C4C2C=C1)Br)CCC3 | C16H12Br2
